US08021825B2
Synthesis of Butyl Norbornene/Triethoxysilyl Norbornene Copolymer (P28)
BuNB (25.22 g, 0.168 mol), Triethoxysilyl Norbornene (TESNB, CAS 18401-43-9) (4.78 g, 0.019 mol), triethyl silane (0.011 g, 9.32E-05 mol), ethanol (0.10 g, 2.24E-03 mol) and toluene (170.0 g) were combined in a 500 mL serum bottle and heated to 80° C. in an oil bath to form a solution. To this solution were injected Pd1206 (0.018 g, 1.49E-05 mol) in the form of a concentrated solution in dichloromethane. After addition, the resulting mixture was maintained at 80° C. for 9 hours. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 20.58 g was obtained (69%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=238,000 and Mn=96,000. The composition of the copolymer was determined by 1H-NMR to be (85/15) BuNB/TESNB copolymer. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5061 in TE mode and 1.5041 in TM mode at a wavelength of 633 nm. The Tg (based on thermomechanical analysis (TMA) measurement) of this polymer was 276° C. The dried copolymer was dissolved in sufficient toluene to result in a 30 wt % copolymer solution.

reactant | Triethoxysilyl Norbornene | 0.019 mol, 4.78 g | C(C)O[Si](OCC)(OCC)C12C=CC(CC1)C2 | C13H24O3Si
reactant | triethyl silane | 0.011 g | C(C)[SiH](CC)CC | C6H16Si
reactant | ethanol | 0.10 g | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 170.0 g | C1(=CC=CC=C1)C | C7H8
product | Butyl Norbornene Triethoxysilyl Norbornene | C(CCC)C12C=CC(CC1)C2.C(C)O[Si](OCC)(OCC)C12C=CC(CC1)C2 | InChI=1S/C13H24O3Si.C11H18/c1-4-14-17(15-5-2,16-6-3)13-9-7-12(11-13)8-10-13;1-2-3-6-11-7-4-10(9-11)5-8-11/h7,9,12H,4-6,8,10-11H2,1-3H3;4,7,10H,2-3,5-6,8-9H2,1H3
